US07544703B2
2-(N-tert-Butoxycarbonyl-N-methylamino)-4-(tert-butyldimethylsilyloxymethyl)pyridine (Reference Compound No. 6-1)
60% Sodium hydride (310 mg, 7.6 mmol) was washed with hexane (5.0 mL), and the residue was suspended in N,N-dimethylformamide (20 mL). 2-tert-Butoxycarbonylamino-4-(tert-butyldimethylsilyloxymethyl)pyridine (Reference compound No. 5-1, 1.3 g, 3.7 mmol) was added dropwise to the suspension for 15 minutes under ice-cooling, and methyl iodide (2.4 mL, 39 mmol) was added thereto, and then the mixture was stirred overnight at room temperature. Water (70 mL) was added to the reaction suspension, and the whole was extracted with ethyl acetate (100 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution (50 mL) and brine (100 mL), and dried over anhydrous magnesium sulfate. The organic layer was evaporated under reduced pressure to give 1.4 g of the mixture including the title reference compound as an orange-red oil.

reactant | Sodium hydride | 7.6 mmol, 310 mg | [H-].[Na+]
reactant | 2-tert-Butoxycarbonylamino-4-(tert-butyldimethylsilyloxymethyl)pyridine | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C17H30N2O3Si
reactant | methyl iodide | 39 mmol, 2.4 mL | CI | CH3I
reactant | Water | 70 mL | O | H2O
solvent | hexane | 5.0 mL | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(N-tert-Butoxycarbonyl-N-methylamino)-4-(tert-butyldimethylsilyloxymethyl)pyridine | 1.4 g | C(C)(C)(C)OC(=O)N(C)C1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C18H32N2O3Si
